US05475011
3R,4S)-4-cyclohexyl-3-hydroxy-2-azetidinone (VIIe)
A suspension of 500 mg (3.06 mmol) of 4-phenyl-3-hydroxy-2-azetidinone VIa and 15 mg of Rh-C in 10 mL of methanol was heated at 90° C. under 800 psi in an autoclave. After 5 days, the hydrogen pressure was released and the catalyst filtered on celite. Evaporation of the solvent afforded a solid which was recrystallized in ethyl acetate to give 440 mg (85%) of VIIe as a white solid: White solid; mp 140°-140.5° C.; [α]D20 +65.1° (C 0.66, CH3OH); 1H NMR (250 MHz, MeOH-d4) δ0.75-1.10 (m, 2H), 1.12-1.35 (m, 3H), 1.40-2.00 (m, 6H), 3.28 (dd, J=9.7, 4.6 Hz, 1H), 4.81 (d, J=4.6 Hz, 1H); 1H NMR (250 MHz, DMSO-d6) δ0.75-1.00 (m, 2H), 1.10-1.35 (m, 3H), 1.37-1.55 (m, 1H), 1.58-1.85 (m, 5H), 3.10 (dd, J=9.6, 4.7 Hz, 1H), 4.67 (m, 1H), 5.87 (d, J=7.8 Hz, 1H), 8.21 (bs, 1H); 13C NMR (63 MHz, DMSO-d6) δ25.08, 25.36, 26.07, 28.83, 29.17, 37.51, 59.04, 76.41, 170.21; IR (KBr) 3312, 3219, 2928, 1726 cm-1. Anal. Calcd for C9H15NO2 : C, 63.88, H, 8.93, N, 8.28. Found: C, 63.70, H, 9.00, N, 8.06.

reactant | 4-phenyl-3-hydroxy-2-azetidinone | 3.06 mmol, 500 mg | C1(=CC=CC=C1)C1C(C(N1)=O)O | C9H9NO2
reactant | hydrogen | [H][H] | H2
reactant | KBr | [K+].[Br-]
solvent | methanol | 10 mL | CO | CH4O
product | 4-cyclohexyl-3-hydroxy-2-azetidinone | C1(CCCCC1)C1C(C(N1)=O)O | C9H15NO2
